US05616610
e) Methyl (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate
(R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran (0.67 g, 1.5 mmol) (4), DMF (20 mL), triethylamine (0.6 g, 6 mmol), methanol (0.8 g, 12.7 mmol), palladium(II)acetate (22 mg, 0.1 mmol) and 1,3-bis(diphenylphosphino)propane (44 mg, 0.1 mmol) were placed in a round-bottomed flask. The solution was stirred at 75° C. in an atmosphere of carbon monoxide for 4 h. The solvent was removed in vacuo, the residue was dissolved in diethyl ether and treated with active charcoal. Evaporation of the solvent afforded 380 mg of the title compound as an uncolored oil. GC/MS (70 eV) M=347 (3 %).

reactant | (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-5-trifluoromethylsulfonyloxy-3,4-dihydro-2H-1-benzopyran | 1.5 mmol, 0.67 g | C1(CCCC1)N(C1CCC1)[C@H]1COC2=C(C1)C(=CC=C2F)OS(=O)(=O)C(F)(F)F | C19H23F4NO4S
reactant | triethylamine | 6 mmol, 0.6 g | C(C)N(CC)CC | C6H15N
reactant | methanol | 12.7 mmol, 0.8 g | CO | CH4O
reactant | carbon monoxide | [C]=O | CO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II)acetate | 0.1 mmol, 22 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,3-bis(diphenylphosphino)propane | 0.1 mmol, 44 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
product | Methyl (R)-3-(N-Cyclopentyl-N-cyclobutylamino)-8-fluoro-3,4-dihydro-2H-1-benzopyran-5-carboxylate | 380 mg | C1(CCCC1)N(C1CCC1)[C@H]1COC=2C(C1)=C(C=CC2F)C(=O)OC | C20H26FNO3
